US05173489
9,9-Bis(3-pyridinylmethyl)fluorene
The title compound was prepared following the procedure described in Example 5 from 10.0 mmole of fluorene, 22.0 mmole of 3-picolylchloride hydrochloride, 2.0 mmole of cetyl tri-n-butyl phosphonium bromide, 20 ml of 50% sodium hydroxide and 40 ml of toluene by reaction at 50° for 6 hrs. The material was chromatographed (silica, CH2Cl2 /MeOH,95:5) to yield 2.6 g (70%), m.p. 137°-138°. δ: 3.41(s,4H), 6.71-6.97(m, 4H), 7.17-7.35(tt,6H), 7.50-7.54(d,J=6.9Hz,2H), 7.91(s,2H), 8.12-8.15(d,J=5.4Hx,2H), HRMS calculated for C25H20N2 : 348.1632 Found: 348.1626

reactant | fluorene | 10.0 mmole | C1=CC=CC=2C3=CC=CC=C3CC12 | C13H10
reactant | 3-picolylchloride hydrochloride | 22.0 mmole | Cl.N1=CC(=CC=C1)CCl
reactant | sodium hydroxide | 20 ml | [OH-].[Na+]
catalyst | cetyl tri-n-butyl phosphonium bromide | 2.0 mmole | [Br-].C(CCCCCCCCCCCCCCC)[P+](CCCC)(CCCC)CCCC
solvent | toluene | 40 ml | C1(=CC=CC=C1)C | C7H8
product | 9,9-Bis(3-pyridinylmethyl)fluorene | N1=CC(=CC=C1)CC1(C2=CC=CC=C2C=2C=CC=CC12)CC=1C=NC=CC1 | C25H20N2
